US07074800B1
Ethyl 5-hydroxy-4-nitroindole-2-carboxylate (1.0 g, 3.8 mmol.) was suspended in a mixture of ethanol (20 ml) and water (5 ml). Potassium hydroxide (840 mg) was added and the mixture stirred at 50° C. under an atmosphere of nitrogen for 1 hour then cooled to ambient temperature. The solvent was evaporated in vacuo and the residue re-dissolved in water (25 ml). The pH was adjusted to pH2 using aqueous hydrochloric acid (2M). The resulting precipitate was filtered off, washed with water and dried in vacuo to give 5-methoxy-4-nitroindole-2-carboxylic acid (790 mg). This was used without further purification.

reactant | Ethyl 5-hydroxy-4-nitroindole-2-carboxylate | 3.8 mmol, 1.0 g | OC=1C(=C2C=C(NC2=CC1)C(=O)OCC)[N+](=O)[O-] | C11H10N2O5
reactant | Potassium hydroxide | 840 mg | [OH-].[K+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 5-methoxy-4-nitroindole-2-carboxylic acid | 790 mg | COC=1C(=C2C=C(NC2=CC1)C(=O)O)[N+](=O)[O-] | C10H8N2O5
